US04243670
15.1 g (0.05 mol) of 1-[α-(4-biphenylyl)-benzyl]-imidazole and 10 g (0.05 mol) of ω-bromoacetophenone are suspended in 500 ml of acetonitrile. After stirring for 15 hours at room temperature, the resulting clear solution is concentrated to about 50 ml. The crystals which hereupon separate out are filtered off and dried. 21 g (82.5% of theory) of 1-[α-(4-biphenylyl)-benzyl]-3-phenacylimidazolium bromide of melting point 210° C. (with decomposition) are obtained.

reactant | 1-[α-(4-biphenylyl)-benzyl]-imidazole | 0.05 mol, 15.1 g | C1(=CC=C(C=C1)C(C1=CC=CC=C1)N1C=NC=C1)C1=CC=CC=C1 | C22H18N2
reactant | ω-bromoacetophenone | 0.05 mol, 10 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 1-[α-(4-biphenylyl)-benzyl]-3-phenacylimidazolium bromide | 21 g, 82.5% | [Br-].C1(=CC=C(C=C1)C(C1=CC=CC=C1)[N+]1=CN(C=C1)CC(=O)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H25N2O.BrH/c33-29(26-12-6-2-7-13-26)22-31-20-21-32(23-31)30(27-14-8-3-9-15-27)28-18-16-25(17-19-28)24-10-4-1-5-11-24;/h1-21,23,30H,22H2;1H/q+1;/p-1
